US08871361B2
Synthesis of N-(2,6-diisopropylphenyl)-3-methoxy-5-methylbenzimidamide.
To a 500 mL 3-neck round bottom flask was added 2,6-diisopropylaniline (4.82 g, 27.2 mmol) and 100 mL toluene. The solution was cooled in an ice bath under nitrogen and trimethylaluminum (2.0 M in toluene, 19 mL, 38.1 mmol) was added dropwise via dropping funnel. The reaction mixture was stirred at room temperature for 2 hours. Next, 3-methoxy-5-methylbenzonitrile (5.20 g, 35.3 mmol) in 50 mL toluene was added and the reaction mixture was heated to 70° C. overnight under nitrogen. The reaction mixture was cooled in an ice bath and was poured onto a stirring slurry of silica gel in 2:1 dichloromethane/methanol (v/v). The silica gel was filtered off and washed with dichloromethane and methanol. The filtrate was evaporated leaving a solid. Hexane was added to the solvent and the solid was filtered off and washed with hexane (5.83 g, 66%).

reactant | 2,6-diisopropylaniline | 27.2 mmol, 4.82 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | trimethylaluminum | 38.1 mmol, 2.0 M, 19 mL | C[Al](C)C
reactant | 3-methoxy-5-methylbenzonitrile | 35.3 mmol, 5.20 g | COC=1C=C(C#N)C=C(C1)C | C9H9NO
reactant | dichloromethane methanol | ClCCl.CO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | CCCCCC | C6H14
product | N-(2,6-diisopropylphenyl)-3-methoxy-5-methylbenzimidamide | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(C1=CC(=CC(=C1)C)OC)=N | C21H28N2O
